US08202858B2
Cyclopropyl-piperidin-4-ylmethyl-carbamic Acid Tert-butyl Ester
4-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]-piperidine-1-carboxylic acid benzyl ester from Example E38.2 (3.67 g, 9.4 mmol) was dissolved in methanol (100 ml) and hydrogenated over 10% Pd/C catalyst (3 g) for 1 h. The mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo to yield the title compound (2.07 g, 87%).

reactant | 4-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN(C1CC1)C(=O)OC(C)(C)C | C22H32N2O4
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | Cyclopropyl-piperidin-4-ylmethyl-carbamic Acid Tert-butyl Ester | 2.07 g, 87% | C(C)(C)(C)OC(N(CC1CCNCC1)C1CC1)=O | C14H26N2O2
